US04897109
Process for the production of N-(3,4-dimethoxyphenylethyl)-N-isopropyl-dichloroacetamide
In a sulfuration-flask, there is added while stirring 20 ml of 20% aqueous sodium hydroxide to 22,3 g of N-(3,4-dimethoxyphenylethyl)-N-isopropyl amine. The reaction mixture is then cooled in CO2 alcohol-cooling-bath to a temperature of -10° to -15°, to which is then added dropwise, while stirring a solution of 14.7 g of dichloroacetylchloride in 10 ml toluene. After everything has been added, the cooling-bath is removed and the reaction mixture is stirred for another 2 hours until it reaches room-temperature. It is then poured into an ice/water mixture and the organic material is extracted with toluene. The toluene extracts are washed once with diluted sodium hydroxide and with diluted hydrochloric acid and twice with water dried over sodium sulfate and concentrated in an rotatory evaporator. The title product is thus obtained as viscous oil in a yield of 28.4 g.

reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | N-(3,4-dimethoxyphenylethyl)-N-isopropyl amine | 22,3 g | COC=1C=C(C=CC1OC)CCNC(C)C | C13H21NO2
reactant | dichloroacetylchloride | 14.7 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,4-dimethoxyphenylethyl)-N-isopropyl-dichloroacetamide | COC=1C=C(C=CC1OC)CCN(C(C(Cl)Cl)=O)C(C)C | C15H21Cl2NO3
